US04912231
A(2) (trans)-1-Benzoyl-4-hydroxy-L-proline, methyl ester
A 5-liter flask was installed in an oil bath on a magnetic stirrer, provided with a reflux condenser and charged with 3.0 liters of methanol and 750 g (3.2 moles) of (trans)-1-benzoyl-4-hydroxy-L-proline. 19 grams of p-toluenesulfonic acid monohydrate (0.1 moles) were added. The mixture was heated to reflux and the esterification followed by TLC. Refluxing was continued until starting material was no longer detectable. 8 grams (0.1 moles) of sodium acetate was added to neutralize the catalyst acid. The condenser was set for distillation and the mixture concentrated at atmospheric pressure until the pot temperature reached 80° C. The distillate was then discarded. The clear residue was rapidly diluted with 2 liters of warm water. The flask was swirled for quick mixing and to permit the ester to crystallize. The slurry was cooled to room temperature with occasional swirling and maintained at room temperature for at least another hour. The crystals were collected on a filter and the filtrate recycled to aid in the transfer. The cake was pressed down and washed with one liter of cold water. The cake was sucked dry as possible and the product dried via a laboratory fluid bed dryer to constant weight. The combined filtrate was vacuum concentrated from the first crop to a small volume and the resulting slurry cooled to room temperature. A second crop of crystals was collected on a filter and washed with a minimum of cold water. The cake was pressed down and suction applied until no more liquid emerged. The second crop was dried to constant weight.

reactant | (trans)-1-benzoyl-4-hydroxy-L-proline | 3.2 moles, 750 g | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C12H13NO4
reactant | p-toluenesulfonic acid monohydrate | 0.1 moles, 19 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium acetate | 0.1 moles, 8 grams | C(C)(=O)[O-].[Na+]
solvent | methanol | 3.0 liters | CO | CH4O
product | (trans)-1-Benzoyl-4-hydroxy-L-proline, methyl ester | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OC)C[C@H](C1)O | C13H15NO4
